US09328096B2
5-chloro-2-(methoxymethyl)pyridine
Sodium hydride (0.61 g, 60% in mineral oil, 15.32 mmol) was added to a solution of (5-chloropyridin-2-yl)methanol (2 g, 13.93 mmol) in THF (50 mL) and stirred at room temperature until no further gas evolution was observed. Iodomethane (0.95 mL, 15.32 mmol) was injected slowly and the reaction was allowed to stir at room temperature for 18 hours. The reaction was concentrated in vacuo, acidified with 2N HCl in water (25 mL) and extracted with EtOAc (2×20 mL). The aqueous layer was collected, basified with potassium hydroxide and extracted with DCM (3×20 mL). The organic layers were combined, washed with water, dried over sodium sulfate and concentrated in vacuo to afford the title compound (2 g, 91%).

reactant | Sodium hydride | 15.32 mmol, 0.61 g | [H-].[Na+]
reactant | (5-chloropyridin-2-yl)methanol | 13.93 mmol, 2 g | ClC=1C=CC(=NC1)CO | C6H6ClNO
reactant | Iodomethane | 15.32 mmol, 0.95 mL | IC | CH3I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-chloro-2-(methoxymethyl)pyridine | 2 g, 91% | ClC=1C=CC(=NC1)COC | C7H8ClNO
